US06458800B1
A mixture of (±)-6-[(4-fluorophenyl)(1H-imidazol-1-yl)methyl]4-phenyl-2(1H)-quinolinone (0.0253 mol) in phosphoryl chloride (30 ml) was refluxed for 1 hour. The mixture was evaporated till dryness and the product was used without further purification, yielding 10.4 g (99%) of (±)-2-chloro-6-[(4-fluorophenyl)(1H-imidazol-1-yl)methyl]-4-phenyl-quinoline (interm. 1).

reactant | (±)-6-[(4-fluorophenyl)(1H-imidazol-1-yl)methyl]4-phenyl-2(1H)-quinolinone | 0.0253 mol | FC1=CC=C(C=C1)C(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC=CC=C1)N1C=NC=C1 | C25H18FN3O
reactant | phosphoryl chloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (±)-2-chloro-6-[(4-fluorophenyl)(1H-imidazol-1-yl)methyl]-4-phenyl-quinoline | 10.4 g, 99% | ClC1=NC2=CC=C(C=C2C(=C1)C1=CC=CC=C1)C(N1C=NC=C1)C1=CC=C(C=C1)F | C25H17ClFN3
